* Pultec EQP-1A Passive Equalizer
* Copyright (c) 2026 Melange Contributors
* License: MIT OR Apache-2.0
*
* Classic passive program equalizer based on the ABSounds/EQP-WDF-1A
* LTSpice model. Passive LC/RC EQ sections followed by a 12AX7 tube
* makeup gain stage.
*
* Topology:
*   in -> R1 (jumper) -> hfb (HF boost LC) -> lfb (LF boost C) ->
*   hfc (HF cut RC) -> Cin -> grid -> [12AX7] -> plate -> output pad -> out
*
* Controls (8 total):
*   3 switches: HF Boost Freq (7-pos), LF Boost Freq (4-pos), HF Cut Freq (3-pos)
*   5 pots: HF Boost Amount, HF Boost Q, LF Boost Amount, LF Cut Amount, HF Cut Amount
*
* Component values from ABSounds/EQP-WDF-1A LTSpice model.
* Inductor values corrected: 50n/22n -> 50m/22m (millihenries for audio LC resonance).

.model 12AX7 TRIODE(MU=100 EX=1.4 KG1=1060 KP=600 KVB=300)
.input_impedance 600

* B+ power supply (250V plate voltage)
VCC vcc 0 DC 250

* === INPUT SECTION ===
* R1 is a jumper (near-zero resistance), connects input to EQ network
R1 in eq_in 1m

* === HF BOOST SECTION (series LC resonant to ground) ===
* The HF boost pot controls how much of the LC resonant circuit
* is connected to the signal path. At max, full resonant boost.
* At min (1 ohm), the LC is effectively disconnected.
* C_hfb and L_hfb are ganged on one 7-position switch.
R_hfb eq_in hfb_tap 10k
C_hfb hfb_tap hfb_l 15n
L_hfb hfb_l 0 176m
R_hfb_q hfb_tap 0 2.2k

* === LF BOOST SECTION (capacitor to ground for bass shelf) ===
* The LF boost pot controls how much bass boost cap is active.
* At max, full cap to ground creates bass shelf.
R_lfb eq_in lfb_tap 10k
C_lfb lfb_tap 0 330n

* === LF CUT SECTION (highpass via series cap) ===
* Higher pot value = more LF cut (less bass passes)
R_lfc eq_in lfc_out 100k
C_lfc lfc_out 0 100n

* === HF CUT SECTION (RC lowpass) ===
* HF cut pot controls the rolloff amount.
* C_hfc is on a 3-position switch.
R_hfc eq_in hfc_tap 1k
C_hfc hfc_tap 0 47n

* === TUBE MAKEUP GAIN (12AX7) ===
* Input coupling cap
Cin eq_in grid 100n

* Grid leak resistor
Rg grid 0 1Meg

* 12AX7 triode (grid, plate, cathode)
T1 grid plate cathode 12AX7

* Plate load resistor
Ra vcc plate 100k

* Cathode bias with bypass cap
Rk cathode 0 1.5k
Ck cathode 0 25u

* === OUTPUT PAD ===
* Models cathode follower + output transformer attenuation
Rpad plate pad 390k
Rshunt pad 0 6.8k

* Output coupling
Cout pad out 1u
Rload out 0 100k

* === SWITCH DIRECTIVES ===
* HF Boost frequency: 7 positions (ganged C + L)
* Positions: 3kHz, 4kHz, 5kHz, 8kHz, 10kHz, 12kHz, 16kHz
.switch C_hfb,L_hfb 15n/176m 15n/100m 10n/100m 10n/50m 6n8/50m 6n8/22m 3n3/22m

* LF Boost frequency: 4 positions
* Positions: 20Hz, 30Hz, 60Hz, 100Hz
.switch C_lfb 330n 220n 100n 68n

* HF Cut frequency: 3 positions
* Positions: ~3.4kHz, ~3.4kHz, ~1.1kHz
.switch C_hfc 47n 47n 150n

* === POTENTIOMETER DIRECTIVES ===
* HF Boost Amount (series R to LC network)
.pot R_hfb 1 10k
* HF Boost Q (damping resistor across LC)
.pot R_hfb_q 1 2.2k
* LF Boost Amount
.pot R_lfb 1 10k
* LF Cut Amount
.pot R_lfc 1 100k
* HF Cut Amount
.pot R_hfc 1 1k

.END
